US09023840B2
Step 1: methyl 5-{3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate
N,N-Diisopropylethylamine (1.0 mL, 6.0 mmol) was added to a mixture of {3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride (0.96 g, 2.0 mmol) and methyl 5-chloropyrazine-2-carboxylate (0.34 g, 2.0 mmol) in 1,4-dioxane (15 mL). The reaction mixture was stirred at 120° C. overnight. The mixture was worked up with saturated aqueous NaHCO3, and extracted with dichloromethylene (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0-60%) to afford the desired product (0.13 g, 12%). LCMS (M+H)+: m/z=545.2.

reactant | N,N-Diisopropylethylamine | 6.0 mmol, 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | {3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | 2.0 mmol, 0.96 g | Cl.Cl.C[Si](CCOCN1C=CC=2C1=NC=CC2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | methyl 5-chloropyrazine-2-carboxylate | 2.0 mmol, 0.34 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | methyl 5-{3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate | 0.13 g, 12% | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)OC)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C27H32N8O3Si
